US06043269
7-Benzyloxy-4-[4-(10-bromodecyloxy)-phenyl]-3-phenyl-chroman
From (+,-) cis 7-Benzyloxy-4-(4-hydroxy-phenyl)-3-phenyl-chroman (2 g, 4.9 mmol) and 1,10-Dibromodecane (7.4 g, 24.5 mmol). The product was purified by flash chromatography using petrol ether-ethyl acetate-toluene-methylene chloride 10+0.5+0.5+0.1 as eluent.

reactant | (+,-) cis 7-Benzyloxy-4-(4-hydroxy-phenyl)-3-phenyl-chroman | 4.9 mmol, 2 g | C(C1=CC=CC=C1)OC1=CC=C2[C@@H]([C@@H](COC2=C1)C1=CC=CC=C1)C1=CC=C(C=C1)O | C28H24O3
reactant | 1,10-Dibromodecane | 24.5 mmol, 7.4 g | BrCCCCCCCCCCBr | C10H20Br2
product | 7-Benzyloxy-4-[4-(10-bromodecyloxy)-phenyl]-3-phenyl-chroman | C(C1=CC=CC=C1)OC1=CC=C2C(C(COC2=C1)C1=CC=CC=C1)C1=CC=C(C=C1)OCCCCCCCCCCBr | C38H43BrO3
